US04806685
Preparation of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis (4-hydroxyphenyl)-propene-hydrochloride
10 ml of a 9% methanolic hydrochloric acid are added to a solution of 4.0 g (7.47 mmoles) of 1-[4-(2-dimethylaminoethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis-(4-methoxymethoxyphenyl)-propene in 40 ml of methanol, and the mixture is boiled for one hour. The solution is evaporated to dryness, and the residue is crystallized from ethanol. 2.67 g (74.4%) of the desired compound are obtained; m.p.: 256°-262° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 1-[4-(2-dimethylaminoethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis-(4-methoxymethoxyphenyl)-propene | 7.47 mmoles, 4.0 g | CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCOC)C | C29H32F3NO5
solvent | methanol | 40 ml | CO | CH4O
product | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis (4-hydroxyphenyl)-propene-hydrochloride | 2.67 g, 74.4% | Cl.CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C | InChI=1S/C25H24F3NO3.ClH/c1-29(2)15-16-32-22-13-7-18(8-14-22)23(17-3-9-20(30)10-4-17)24(25(26,27)28)19-5-11-21(31)12-6-19;/h3-14,30-31H,15-16H2,1-2H3;1H
